US05262390
Step H: Methyl 2-(formyl-5-methylphenoxy)propionate
A mixture of 6.0 g (0.0441 mole) of 4-methylsalicylaldehyde, 7.31 g (0.0529 mole) of potassium carbonate, and 8.62 g (0.0529 mole) of methyl 2-bromopropionate in 50 mL of 2-butanone was heated at 70° C. for approximately seventeen hours. The mixture was then filtered, and the filtrate was evaporated under reduced pressure, leaving a light yellow oil as a residue. This oil was placed on a silica gel column and eluted first with diethyl ether/petroleum ether (25/75) and then with diethyl ether. After the product-containing fractions were combined and the solvents evaporated under reduced pressure, 8.2 g of methyl 2-(2-formyl-5-methylphenoxy)propionate was recovered as a white solid, m.p. 65°-68° C. The NMR and IR spectra were consistent with the proposed structure.

reactant | 4-methylsalicylaldehyde | 0.0441 mole, 6.0 g | CC=1C=C(C(C=O)=CC1)O | C8H8O2
reactant | potassium carbonate | 0.0529 mole, 7.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-bromopropionate | 0.0529 mole, 8.62 g | BrC(C(=O)OC)C | C4H7BrO2
solvent | 2-butanone | 50 mL | CC(CC)=O | C4H8O
product | Methyl 2-(formyl-5-methylphenoxy)propionate | C(=O)C1=C(OC(C(=O)OC)C)C=C(C=C1)C | C12H14O4
